US05464781
A mixture of ethyl 4-chloro-6-ethoxy-7-methyl-1,8-naphthyridine-3-carboxylate (3.5 g) and 4-methoxyaniline (1.5 g) in ethanol (50 ml) was boiled under reflux for 1.5 hours. The reaction mixture was concentrated to half the volume, cooled and ether added. The solid was collected by filtration and dried to give ethyl 4-(4-methoxyanilino)-6-ethoxy-7-methyl-1,8-naphthyridine-3-carboxylate hydrochloride m.p. 260°-262° C. (with decomposition).

reactant | ethyl 4-chloro-6-ethoxy-7-methyl-1,8-naphthyridine-3-carboxylate | 3.5 g | ClC1=C(C=NC2=NC(=C(C=C12)OCC)C)C(=O)OCC | C14H15ClN2O3
reactant | 4-methoxyaniline | 1.5 g | COC1=CC=C(N)C=C1 | C7H9NO
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | ethyl 4-(4-methoxyanilino)-6-ethoxy-7-methyl-1,8-naphthyridine-3-carboxylate hydrochloride | Cl.COC1=CC=C(NC2=C(C=NC3=NC(=C(C=C23)OCC)C)C(=O)OCC)C=C1 | InChI=1S/C21H23N3O4.ClH/c1-5-27-18-11-16-19(24-14-7-9-15(26-4)10-8-14)17(21(25)28-6-2)12-22-20(16)23-13(18)3;/h7-12H,5-6H2,1-4H3,(H,22,23,24);1H
